US09107916B2
A. 2-{5-[(3,4-difluorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (3,4-difluorophenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.19 (2H, s), 5.73 (1H, d, J=2.0 Hz), 7.16-7.34 (3H, m), 7.41-7.42 (1H, m), 7.57 (1H, s, J=2.0 Hz), 8.04 (1H, s), 8.70 (1H, s, J=4.4 Hz). [M+H] Calc'd for C16H10F2N4O, 313. Found, 313.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (3,4-difluorophenyl)methanol | FC=1C=C(C=CC1F)CO | C7H6F2O
product | 2-{5-[(3,4-difluorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | FC=1C=C(COC2=CC=NN2C2=NC=CC(=C2)C#N)C=CC1F | C16H10F2N4O
